US06437194B2
The reaction, filtration, dehydration and solvent removal were carried out by the same procedures as Example 12 except that nonylphenol propylene oxide adduct having a propylene oxide addition mole number of 5.0 was used in place of nonylphenol ethylene oxide adduct having an ethylene oxide addition mole number of 5.0. Nonylcyclohexanol propylene oxide adduct was obtained.

reactant | nonylphenol propylene oxide | C1C(C)O1.C(CCCCCCCC)C1=C(C=CC=C1)O
reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | nonylphenol ethylene oxide | C1CO1.C(CCCCCCCC)C1=C(C=CC=C1)O
reactant | ethylene oxide | C1CO1 | C2H4O
product | Nonylcyclohexanol propylene oxide | C1C(C)O1.C(CCCCCCCC)C1(CCCCC1)O | InChI=1S/C15H30O.C3H6O/c1-2-3-4-5-6-7-9-12-15(16)13-10-8-11-14-15;1-3-2-4-3/h16H,2-14H2,1H3;3H,2H2,1H3
